US06228877B1
A suspension of (1-methyl-6-nitro-1H-indol-3-yl)-oxo-acetyl chloride (251 mg, 0.94 mm) and 2-(6-methoxy-1-methyl-1H-indol-3-yl)-acetimidic acid isopropyl ester hydrochloride (280 mg, 0.94 mm) in CH2Cl2(25 mL) was cooled to 0° C., treated with Et3N (0.53 mL, 3.7 mm), and stirred at room temperature while allowing to warm to room temperature overnight. The mixture was then diluted with CH2Cl2 (25 mL), washed with H2O (20 mL), and 0.5 N HCl (20 mL). The combined organic layers were dried over MgSO4, filtered and evaporated. The residue was then combined with toluene (4 mL), cooled to 0° C., treated with pTsOH (197 mg, 1 mm), and stirred for 3 hours. The red solids which precipitated were collected and partitioned between CH2Cl2 (50 mL), and H2O (25 mL). The organic fraction was washed with saturated NaHCO3 solution (25 mL), then dried over MgSO4, filtered and evaporated. Rinsing the residue with tetrahydrofuran (THF) afforded 3-(6-methoxy-1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3yl)-pyrrole-2,5-dione; mp=308-310° C.; in 31% yield.

reactant | (1-methyl-6-nitro-1H-indol-3-yl)-oxo-acetyl chloride | 251 mg | CN1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C(C(=O)Cl)=O | C11H7ClN2O4
reactant | 2-(6-methoxy-1-methyl-1H-indol-3-yl)-acetimidic acid isopropyl ester hydrochloride | 280 mg | Cl.C(C)(C)OC(CC1=CN(C2=CC(=CC=C12)OC)C)=N
reactant | Et3N | 0.53 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-(6-methoxy-1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3yl)-pyrrole-2,5-dione | 31% yield | COC1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)=O | C23H18N4O5
